US05089499
Using the procedure described in Example 10, p-[N-(3,4-dihydro-3-pivaloyloxymethyl-4-oxoquinazolin-6-ylmethyl)-N-(prop-2-ynyl)amino]benzoic acid was reacted with 3-aminomethylpyridine to give p-[N-(3,4-dihydro-4-oxoquinazolin-6-ylmethyl)-N-(prop-2-ynyl)amino]-N-(3-pyridylmethyl)benzamide (containing 4.5 equivalents of water, 61%), m.p. 137°-139° C.

reactant | p-[N-(3,4-dihydro-3-pivaloyloxymethyl-4-oxoquinazolin-6-ylmethyl)-N-(prop-2-ynyl)amino]benzoic acid | C(C(C)(C)C)(=O)OCN1C=NC2=CC=C(C=C2C1=O)CN(CC#C)C1=CC=C(C(=O)O)C=C1 | C25H25N3O5
reactant | 3-aminomethylpyridine | NCC=1C=NC=CC1 | C6H8N2
product | p-[N-(3,4-dihydro-4-oxoquinazolin-6-ylmethyl)-N-(prop-2-ynyl)amino]-N-(3-pyridylmethyl)benzamide | 4.5 equivalents, 61% | O=C1NC=NC2=CC=C(C=C12)CN(CC#C)C1=CC=C(C(=O)NCC=2C=NC=CC2)C=C1 | C25H21N5O2
